US07964623B2
N-Benzyl-6,6-dimethyl-1H-pyrano[2,3-f]indole-2-one
To a solution of N-benzyl-6,6-dimethyl-1H-pyrano[2,3-f]indole-2,3-dione (500 mg, 1.57 mmol) in DMF (5 mL), hydrazine monohydrate (2.5 mL) was added, and the resulting mixture was stirred at 100° C. for 1.5 hour. Water was added thereto, and the resulting solution was extracted with ethyl acetate. The resulting organic phase was washed with saturated ammonium chloride aqueous solution and then with saturated sodium chloride solution, dried over anhydrous sodium sulfate, concentrated and purified by silica gel column (hexane/ethyl acetate=3/1) to obtain the aimed product (yield: 65%).

reactant | N-benzyl-6,6-dimethyl-1H-pyrano[2,3-f]indole-2,3-dione | 1.57 mmol, 500 mg | C(C1=CC=CC=C1)N1C(C(C2=CC3=C(C=C12)C=CC(O3)(C)C)=O)=O | C20H17NO3
reactant | Water | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | hydrazine monohydrate | 2.5 mL | O.NN
product | N-Benzyl-6,6-dimethyl-1H-pyrano[2,3-f]indole-2-one | yield: 65% | C(C1=CC=CC=C1)N1C(CC2=CC3=C(C=C12)C=CC(O3)(C)C)=O | C20H19NO2
